US09376422B2
To a stirred solution of methyl 2,5-dichloro-3-(cyclopentylamino)benzoate (0.275 g, 0.958 mmol) in acetonitrile (5 mL) was added cesium carbonate (0.622 g, 1.9 mmol) and methyl iodide (0.689 g, 4.78 mmol). The reaction mixture was heated at 80° C. for 18 h. On completion, the reaction was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to afford methyl 2,5-dichloro-3-(cyclopentyl(methyl)amino)benzoate (0.27 g, 93%).

reactant | methyl 2,5-dichloro-3-(cyclopentylamino)benzoate | 0.958 mmol, 0.275 g | ClC1=C(C(=O)OC)C=C(C=C1NC1CCCC1)Cl | C13H15Cl2NO2
reactant | cesium carbonate | 1.9 mmol, 0.622 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 4.78 mmol, 0.689 g | CI | CH3I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | methyl 2,5-dichloro-3-(cyclopentyl(methyl)amino)benzoate | 0.27 g, 93% | ClC1=C(C(=O)OC)C=C(C=C1N(C)C1CCCC1)Cl | C14H17Cl2NO2
